US08283354B2
Under an N2 atmosphere, BOP (137 mg, 0.31 mmol) was added in a single portion to a stirring solution of 2-(7-methyl-4-(piperazin-1-yl)quinazolin-2-yl)phenol (100 mg, 0.31 mmol), (S)-2-hydroxy-4-methylpentanoic acid (41 mg, 0.31 mmol), and triethylamine (43 μL, 0.31 mmol) in DMF (0.5 ml). After stirring the mixture for 1 h at room temperature, it was partitioned between H2O and ether. The organic phase was washed with H2O (3×20 mL), dried over MgSO4, filtered, and concentrated. Purification via silica gel chromatography using 1:1 ethyl acetate/hexane gave (S)-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-4-methylpentan-1-one as a white solid. LC/MS: m/z 435.3 (M+H)+ at 2.62 min (10-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.44 (dd, J=8.2, 1.7 Hz, 1H), 7.99 (d, J=8.5 Hz, 1H), 7.67 (s, 1H), 7.40-7.36 (m, 2H), 6.96-6.93 (m, 2H), 4.92 (d, J=7.2 Hz, 1H) 4.41-4.36 (m, 1H), 4.06-3.67 (m, 8H), 2.51 (s, 3H), 1.85-1.73 (m, 1H), 1.49-1.35 (m, 2H), 0.93-0.91 (m, 6H).

reactant | BOP | 0.31 mmol, 137 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 2-(7-methyl-4-(piperazin-1-yl)quinazolin-2-yl)phenol | 0.31 mmol, 100 mg | CC1=CC=C2C(=NC(=NC2=C1)C1=C(C=CC=C1)O)N1CCNCC1 | C19H20N4O
reactant | (S)-2-hydroxy-4-methylpentanoic acid | 0.31 mmol, 41 mg | O[C@H](C(=O)O)CC(C)C | C6H12O3
reactant | triethylamine | 0.31 mmol, 43 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | (S)-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-4-methylpentan-1-one | O[C@H](C(=O)N1CCN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)CC(C)C | C25H30N4O3
